US07504401B2
To [3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-(6-methoxy-pyridin-3-yl)-methanol in methylene chloride (5 mL) at room temperature was added Dess-Martin reagent. The resulting reaction mixture was stirred at room temperature for 1 h. Sat. NaHCO3 and Na2S2O3 were then added and the stirring was continued until both phases become clear. The organic phase was separated, dried and concentrated to provide [3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-(6-methoxy-pyridin-3-yl)-methanone which was carried on to the next step without further purification.

reactant | [3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-(6-methoxy-pyridin-3-yl)-methanol | BrC=1C=C(C=C(C1)OCC1=CC=C(C=C1)OC)C(O)C=1C=NC(=CC1)OC | C21H20BrNO4
reactant | Dess-Martin reagent | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | [3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-(6-methoxy-pyridin-3-yl)-methanone | BrC=1C=C(C=C(C1)OCC1=CC=C(C=C1)OC)C(=O)C=1C=NC(=CC1)OC | C21H18BrNO4
